US05580870
Using an analogous procedure to that described in Example 1, 4-chloro-6-nitroquinazoline was reacted with 6-aminoquinoline to give 6-nitro-4-(6-quinolylamino)quinazoline in 86% yield, m.p. >300° C.;

reactant | 4-chloro-6-nitroquinazoline | ClC1=NC=NC2=CC=C(C=C12)[N+](=O)[O-] | C8H4ClN3O2
reactant | 6-aminoquinoline | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
product | 6-nitro-4-(6-quinolylamino)quinazoline | 86% yield | [N+](=O)([O-])C=1C=C2C(=NC=NC2=CC1)NC=1C=C2C=CC=NC2=CC1 | C17H11N5O2
